US04933330
Methyl 2-acetoxy-5-acetamidobenzoate
Methyl 2-hydroxy-5-acetamidobenzoate (13.6 g, 68 mmole) was dissolved in pyridine (20 ml), acetic anhydride (7.4 ml) was added, and the reaction mixture was left at room temperature for 48 hours after which time it was evaporated to dryness, in vacuo. The remaining product was recrystallized from ethanol-water (1:3) to give the title compound (14.4 g, 84%), m.p. 133°-135° C. Found (Calc. for C12H13NO5) C 57.11 (57.37), H 5.28 (5.18), N 5.47 (5.58).

reactant | Methyl 2-hydroxy-5-acetamidobenzoate | 68 mmole, 13.6 g | OC1=C(C(=O)OC)C=C(C=C1)NC(C)=O | C10H11NO4
reactant | acetic anhydride | 7.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-acetoxy-5-acetamidobenzoate | 14.4 g, 84% | C(C)(=O)OC1=C(C(=O)OC)C=C(C=C1)NC(C)=O | C12H13NO5
